* C:\Users\lauta\OneDrive\Documentos\LTspice\Projects\signal-generator\Simulaciones\PWM\pwm.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N005 N003 10k
R2 N003 0 4.7K
R3 N005 N009 {R}
R4 0 N008 {R}
C1 N009 N008 .01µ
C2 N008 0 .01µ
X§U1 N008 N003 +V -V N005 LT1001
X§U2 N005 Sin +V -V Sin LT1001
D1 N005 N004 D
D2 N004 N005 D
R5 N004 N003 100K
R6 N010 +V 10K
R§pote1 N010 0 {R2}
RMAX N010 0 13747.59417
R7 N006 Sin 10k
R8 N006 5.5V 20k
R10 N011 +V 10K
R§const N011 0 10k
RMAX1 N011 0 13747.59417
X§U3 N011 5.5V +V -V 5.5V LT1001
C3 N012 Sin 100µ
R11 +V N012 10k
R12 N012 0 6.8k
R13 N002 N001 10k
R14 N001 0 10k
R15 0 N006 15k
X§U4 N006 N001 +V -V N002 LT1001
X§U5 N002 sin-const +V -V sin-const LT1001
X§U7 N010 variable +V -V variable LT1001
X§U9 variable sin-const +V 0 N007 RH1028
.model D D
.lib C:\Users\lauta\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 .5 0 10u startup
* This example schematic is supplied for informational/educational purposes only.
.param R 5k
* .step param R 1k 10k 1k
.step param R2 0.00001 10k 1k
* .param R2=10k
.lib LTC.lib
.lib RH1028.sub
.backanno
.end
